US09340556B2
To a suspension of ethyl 3-acetyl-4-oxo-1,4-dihydroquinoline-6-carboxylate (5.74 g, 22.14 mmol) in N,N-dimethylformamide (120 ml) was added potassium carbonate (9.18 g, 66.4 mmol) and methyl iodide (4.2 ml, 67.2 mmol). The mixture was stirred at 90° C. for 1 h. After cooling, the reaction was filtered, concentrated under high vacuum, diluted with dichloromethane/ethyl acetate, and filtered through a silica plug to afford ethyl 3-acetyl-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylate (3.64 g, 13.32 mmol, 60.2% yield. LCMS: (M+H)+: 274.0.

reactant | ethyl 3-acetyl-4-oxo-1,4-dihydroquinoline-6-carboxylate | 22.14 mmol, 5.74 g | C(C)(=O)C1=CNC2=CC=C(C=C2C1=O)C(=O)OCC | C14H13NO4
reactant | potassium carbonate | 66.4 mmol, 9.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 67.2 mmol, 4.2 ml | CI | CH3I
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | ethyl 3-acetyl-1-methyl-4-oxo-1,4-dihydroquinoline-6-carboxylate | 60.2% yield | C(C)(=O)C1=CN(C2=CC=C(C=C2C1=O)C(=O)OCC)C | C15H15NO4
